US04409018
2-(4-Bromo-2-fluorophenyl)-2,3,4,5,6,7,-hexahydro-3-mercapto-1H-isoindol-1-one
By the same procedure as described in Method (a) of Example 1, 55.0 g of 2-(4-bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one was reduced with 18.0 g of sodium borohydride, thereby affording 44.9 g (yield of 81%) of the subject compound. Recrystallization from ethanol yielded white crystals, m.p. 87°-88° C.

reactant | 2-(4-bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one | 55.0 g | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1=S)=O)F | C14H11BrFNOS
reactant | sodium borohydride | 18.0 g | [BH4-].[Na+]
product | 2-(4-Bromo-2-fluorophenyl)-2,3,4,5,6,7,-hexahydro-3-mercapto-1H-isoindol-1-one | 44.9 g, yield of 81% | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13BrFNOS
